US07612055B2
To a stirred suspension of 1.03 g (12.0 mmol) pent-4-enylamine, 8 ml DCM and 5 ml 10% aqueous Na2CO3 at 0° C. are added dropwise 2.25 g (12.0 mmol) 3-chlorosulfonyl-propionic acid methyl ester. After stirring for 2 h at 25° C. the phases are separated and the organic phase is dried with sodium sulfate and evaporated. Chromatography on silica gel (EtOAc, hexane 1:2) gives the 3-pent-4-enylsulfamoyl-propionic acid methyl ester. This ester is dissolved in 2 ml DMF and heated to 65° C. in the presence of 1.58 g (11.5 mmol) K2CO3 and 0.716 ml methyl iodide for 5 h. The mixture is diluted with EtOAc and washed with water, dried with sodium sulfate and evaporated. Chromatography on silica gel (EtOAc, hexane 1:4) gives the 3-(methyl-pent-4-enyl-sulfamoyl)-propionic acid methyl ester. Hydrolysis of this ester with LiOH in water/MeOH gives the title compound.

reactant | pent-4-enylamine | 12.0 mmol, 1.03 g | C(CCC=C)N | C5H11N
reactant | Na2CO3 | 5 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-chlorosulfonyl-propionic acid methyl ester | 12.0 mmol, 2.25 g | COC(CCS(=O)(=O)Cl)=O | C4H7ClO4S
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | 3-pent-4-enylsulfamoyl-propionic acid methyl ester | COC(CCS(NCCCC=C)(=O)=O)=O | C9H17NO4S
